US03932318
Chloral/p-Chlorophenyl Isocyanate Copolymers
In each of the following examples the indicated amounts of chloral and p-chlorophenyl isocyanate were combined and to this solution was added 0.2 ml. of dimethylformamide and 0.8 ml. of acetonitrile. The resulting solution was heated to 50°C. and thoroughly mixed with the amount of initiator solution (1 molar lithium chloride in dimethylformamide) indicated. The quiescent mixture was then cooled without agitation to the temperature shown for the period indicated. The resulting polymerizate was dissolved in toluene. The solution was clarified by filtration and the filtrate poured into a large excess of methanol to precipitate the chloral/p-chlorophenyl isocyanate copolymer. After being washed thoroughly with methanol, the product was dried, weighed, and analyzed for nitrogen content, from which the mole percent of ##EQU9## groups and chloral groups in the copolymer was calculated.

reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | acetonitrile | C(C)#N | C2H3N
reactant | lithium chloride | 1 molar | [Cl-].[Li+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Chloral p-Chlorophenyl Isocyanate | O=CC(Cl)(Cl)Cl.ClC1=CC=C(C=C1)N=C=O | InChI=1S/C7H4ClNO.C2HCl3O/c8-6-1-3-7(4-2-6)9-5-10;3-2(4,5)1-6/h1-4H;1H
